US08563575B2
A mixture of 1H-pyrrolo[2,3-b]pyridin-2(3H)-one (431 mg), 1-bromo-4-nitrobenzene (778 mg), copper(I) iodide (122 mg), N1,N2-dimethylethane-1,2-diamine (113 mg) and potassium iodide (1.36 g) in 1,4-dioxane (10 mL) was sparged with argon for 5 min then heated overnight at 95° C. After this time, the reaction mixture was cooled to ambient temperature, diluted with ethyl acetate (100 mL), filtered through diatomaceous earth and the filtrate was concentrated under reduced pressure. The residue obtained was purified by chromatography (silica, heptane to 1:1 ethyl acetate/heptane) to afford 1-(4-nitrophenyl)-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one (207 mg) as a white solid.

reactant | 1H-pyrrolo[2,3-b]pyridin-2(3H)-one | 431 mg | N1C(CC=2C1=NC=CC2)=O | C7H6N2O
reactant | 1-bromo-4-nitrobenzene | 778 mg | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | N1,N2-dimethylethane-1,2-diamine | 113 mg | CNCCNC | C4H12N2
reactant | potassium iodide | 1.36 g | [I-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 122 mg | [Cu]I
product | 1-(4-nitrophenyl)-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | 207 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C(CC=2C1=NC=CC2)=O | C13H9N3O3
